US04515626
Production of N-(4-cyclopropyl-6-trichloromethyl-1,3,5-triazin-2-yl)-N'-(2-difluoromethoxybenzenesulfonyl)urea
2.7 g of 2-difluoromethoxybenzenesulfonylisocyanate are added to a solution of 2.54 g of 2-amino-4-cyclopropyl-6-trichloromethyl-1,3,5-triazine, and the whole is stirred at room temperature for 14 hours. Hexane is then added until the reaction product precipitates. Filtration is carried out and the filtration residue is dried to thus obtain 3 g of the above urea, which melts at 103°-105° C.

reactant | 2-difluoromethoxybenzenesulfonylisocyanate | 2.7 g | FC(OC1=C(C=CC=C1)S(=O)(=O)N=C=O)F | C8H5F2NO4S
reactant | 2-amino-4-cyclopropyl-6-trichloromethyl-1,3,5-triazine | 2.54 g | NC1=NC(=NC(=N1)C1CC1)C(Cl)(Cl)Cl | C7H7Cl3N4
solvent | Hexane | CCCCCC | C6H14
product | N-(4-cyclopropyl-6-trichloromethyl-1,3,5-triazin-2-yl)-N'-(2-difluoromethoxybenzenesulfonyl)urea | C1(CC1)C1=NC(=NC(=N1)C(Cl)(Cl)Cl)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)OC(F)F | C15H12Cl3F2N5O4S
